US06388134B1
A mixture comprising 7.34 g (25.53 mmol) 4-(6-bromohexyloxy)butylbenzene and 10.3 ml (94.30 mmol) benzylamine is heated at 125° C. for 8 hr. The benzylamine in excess is distilled off and the residue dissolved in 30 ml methyl ethyl ketone. To the resulting solution, heated to 50° C., is added a solution of 7.43 ml 47% HBr in 50 ml H2O, then it is allowed to stir for 15 min and decanted. The organic phase is evaporated to dryness an the thus obtained residue triturated with Et2O and filtered to yield 5.9 g (59.8%) N-benzyl-6-(4-phenylbutoxy)hexylamine hydrobromide.

reactant | 4-(6-bromohexyloxy)butylbenzene | 25.53 mmol, 7.34 g | BrCCCCCCOCCCCC1=CC=CC=C1 | C16H25BrO
reactant | benzylamine | 94.30 mmol, 10.3 ml | C(C1=CC=CC=C1)N | C7H9N
product | N-benzyl-6-(4-phenylbutoxy)hexylamine hydrobromide | 5.9 g, 59.8% | Br.C(C1=CC=CC=C1)NCCCCCCOCCCCC1=CC=CC=C1 | InChI=1S/C23H33NO.BrH/c1(10-18-24-21-23-16-7-4-8-17-23)2-11-19-25-20-12-9-15-22-13-5-3-6-14-22;/h3-8,13-14,16-17,24H,1-2,9-12,15,18-21H2;1H
